US06586429B2
To a stirring mixture of (S)-7,8-dihydro-8-ethoxymethyl-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (140 mg, 0.383 mmol) and p-dimethylaminopyridine (102 mg, 0.834 mmol) in chloroform was added methanesulfonic anhydride (109 mg, 0.626 mmol). After stirred at room temperature for 16 hours, the reaction mixture was treated with methanol (1 ml). After concentration under reduced pressure, the residue was purified by column chromatography on silica gel eluting with ethyl acetate to provide (S)-7,8-dihydro-8-ethoxymethyl-3-(5-methanesulfonyloxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione (160 mg, 94% yield) as a white powder.

reactant | (S)-7,8-dihydro-8-ethoxymethyl-3-(5-hydroxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 0.383 mmol, 140 mg | C(C)OCN1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@H](C)O)=O)C | C17H27N5O4
reactant | methanesulfonic anhydride | 0.626 mmol, 109 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | methanol | 1 ml | CO | CH4O
catalyst | p-dimethylaminopyridine | 0.834 mmol, 102 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)-7,8-dihydro-8-ethoxymethyl-3-(5-methanesulfonyloxyhexyl)-1-methyl-1H-imidazo[2,1-f]-purine-2,4(3H,6H)-dione | 160 mg, 94% yield | C(C)OCN1CCN2C1=NC=1N(C(N(C(C21)=O)CCCC[C@H](C)OS(=O)(=O)C)=O)C | C18H29N5O6S
